US04414389
1-(2-Pyridylcarbonyl)-4-[2-(hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)ethyl]piperidine
In the manner of Example 2, 2-(4-piperidylethyl)pyrrolo[1,2-a]pyrazine and 2-pyridine carbonyl chloride will react in pyridine solution to give the title compound.

reactant | 2-(4-piperidylethyl)pyrrolo[1,2-a]pyrazine | N1CCC(CC1)CCN1CC=2N(C=C1)C=CC2 | C14H21N3
reactant | 2-pyridine carbonyl chloride | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2-Pyridylcarbonyl)-4-[2-(hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)ethyl]piperidine | N1=C(C=CC=C1)C(=O)N1CCC(CC1)CCN1CC2N(CC1)CCC2 | C20H30N4O
